US06677383B1
(E)-3-Hydroxy-4,4′-dimethoxystilbene
To a stirred mixture of 4-methoxybenzyltriphenylphosphonium chloride (5.51 g, 13mmol) and 4-methoxy-3-hydroxybenzaldehyde (2 g, 13 mmol) in CH2Cl2 was added a cooled aqueous solution of NaOH(62.5 eq) in H2O. The mixture was stirred at room temperature for 48 h. The aqueous layer was then acidified to pH 5 and the precipitated solid was filtered and dried. Purification by silica gel chromatography using hexane/ethyl acetate (1:1) gave the title E-trans product as a colourless solid 0.11 g (3%): 1H NMR (DMSO) δ 9.3 (1H, bs). 7.6 (2H, d), 7.2 (7H, m), 3.5 (6H, s): Mass Spectrum (FAB) 257 (M+1).

reactant | 4-methoxybenzyltriphenylphosphonium chloride | 13mmol, 5.51 g | [Cl-].COC1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | 4-methoxy-3-hydroxybenzaldehyde | 13 mmol, 2 g | COC1=C(C=C(C=O)C=C1)O | C8H8O3
reactant | NaOH | 62.5 eq | [OH-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | (E)-3-Hydroxy-4,4′-dimethoxystilbene | 0.11 g, 3% | OC=1C=C(C=CC1OC)\C=C\C1=CC=C(C=C1)OC | C16H16O3
